### PR TITLE
[Merged by Bors] - chore: forward port leanprover-community/mathlib#18575

### PR DESCRIPTION
**Pull request by eric-wieser**
This somewhat re-ports the file from scratch (by manually cleaning up the mathport output to remove all the meta comments), as lots of workarounds were added in #2570 to deal with coercion issues.

All proof changes are restoring the mathport proofs, except for small modifications to use `simp [(foo)]` instead of `simp [foo]` or `simp` (where `foo` was already a `simp` lemma).

leanprover-community/mathlib#18575

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean [hunk 1]
```diff
@@ -469,14 +456,13 @@ theorem coe_mul (f g : P1 →ᵃ[k] P1) : ⇑(f * g) = f ∘ g :=
 #align affine_map.coe_mul AffineMap.coe_mul
 
 @[simp]
-theorem coe_one : ⇑(1 : P1 →ᵃ[k] P1) = id k P1 :=
+theorem coe_one : ⇑(1 : P1 →ᵃ[k] P1) = _root_.id :=
   rfl
 #align affine_map.coe_one AffineMap.coe_one
 
-/-- `AffineMap.linear` on endomorphisms is a `MonoidHom`. -/
+/-- `affine_map.linear` on endomorphisms is a `MonoidHom`. -/
```
Comment (mcdoll) [inline Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean:463]:
```suggestion
/-- `AffineMap.linear` on endomorphisms is a `MonoidHom`. -/
```

File: Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean [hunk 2]
```diff
@@ -909,7 +888,7 @@ the images. -/
 theorem Convex.combo_affine_apply {x y : E} {a b : 𝕜} {f : E →ᵃ[𝕜] F} (h : a + b = 1) :
     f (a • x + b • y) = a • f x + b • f y := by
   simp only [Convex.combo_eq_smul_sub_add h, ← vsub_eq_sub]
-  exact f.apply_lineMap _ _ _
+  exact f.apply_line_map _ _ _
```
Comment (mcdoll) [inline Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean:891]:
```suggestion
  exact f.apply_lineMap _ _ _
```

File: Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean [hunk 3]
```diff
@@ -822,6 +801,8 @@ variable [CommRing k] [AddCommGroup V1] [AffineSpace V1 P1] [AddCommGroup V2]
 
 variable [Module k V1] [Module k V2]
 
+include V1
+
```
Comment (mcdoll) [inline Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean:805]:
```suggestion
```

**Review by mcdoll — COMMENTED** [review]
a few regressions

File: Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean [hunk 4]
```diff
@@ -469,14 +456,13 @@ theorem coe_mul (f g : P1 →ᵃ[k] P1) : ⇑(f * g) = f ∘ g :=
 #align affine_map.coe_mul AffineMap.coe_mul
 
 @[simp]
-theorem coe_one : ⇑(1 : P1 →ᵃ[k] P1) = id k P1 :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean:472]: This was a mis-port

File: Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean [hunk 5]
```diff
@@ -853,7 +831,7 @@ theorem homothety_apply_same (c : P1) (r : k) : homothety c r c = c :=
 
 theorem homothety_mul_apply (c : P1) (r₁ r₂ : k) (p : P1) :
     homothety c (r₁ * r₂) p = homothety c r₁ (homothety c r₂ p) := by
-  simp [homothety_apply, mul_smul]
+  simp only [homothety_apply, mul_smul, vadd_vsub]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean:834]: This proof was ported without modification the first time, but forever reason needs more help after this re-port

File: Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean [hunk 6]
```diff
@@ -513,17 +499,17 @@ theorem linear_bijective_iff (f : P1 →ᵃ[k] P2) :
 theorem image_vsub_image {s t : Set P1} (f : P1 →ᵃ[k] P2) :
     f '' s -ᵥ f '' t = f.linear '' (s -ᵥ t) := by
   ext v
-  rw [Set.mem_vsub] -- Porting note: `simp only` did not use this lemma
-  simp only [Set.mem_image, exists_exists_and_eq_and, exists_and_left, ←
-    f.linearMap_vsub]
+  -- porting note: `simp` needs a placeholder for the `β` argument to `Set.mem_vsub`
+  simp only [Set.mem_vsub (β := _), Set.mem_image,
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean:503]: This is deeply weird

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean:503]: [Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/simp.20doesn't.20work.20without.20placeholders/near/342032263)

**Comment by mcdoll** [comment]
maintainer merge

**Comment by eric-wieser** [comment]
maintainer merge

**Comment by eric-wieser** [comment]
I don't want to merge my own PR without the eyes of another maintainer. I posted again to try and wake up the bot, but it seems to be having github API issues, which we're working on resolving)

**Comment by ocfnash** [comment]
Thanks!

bors merge
